US07576215B2
METHYL 2-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]-2-METHYLPROPANOATE
The title compound was prepared from 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol and 2-(4-Bromomethyl-phenyl)-2-methyl-propionic acid ethyl ester as in the procedure of Example 43. MS m/z 570;

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | 2-(4-Bromomethyl-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC=C(C=C1)CBr)=O | C13H17BrO2
product | METHYL 2-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)PHENYL]-2-METHYLPROPANOATE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C=C2)C(C(=O)OC)(C)C)C=CC1)C(F)(F)F | C35H30F3NO3
